US05521188
A mixture of 3-nitro-o-xylene (13.4 mL, 0.1 mol), dimethylformamide dimethyl acetal (40 mL, 0.3 mol) and pyrrolidine (10 mL, 0.12 mol) in 200 mL of dry DMF was heated at 120°-130° C. (oil-bath temperature) under Ar for 21 h. The cooled mixture was poured into cold water (400 mL) and extracted with ether (4×200 mL). The ethereal solution was washed (H2O, 4×100 mL), dried (Na2SO4) and evaporated to give a dark red viscous oil. This oil was taken up in 150 mL of ethyl acetate, 1.5 g of 10% palladium-on-charcoal was added and the mixture was hydrogenated at 50 psi on a Parr shaker for 1 h. The reaction mixture was then filtered, the catalyst was washed with additional ethyl acetate and the filtrate was evaporated to give a dark purple oil. Flash chromatography (SiO2 /dichloromethane-petroleum ether, 1:1) of this oil gave pure 4-methylindole (8.85 g, 68%) as a light yellow-brown oil: 1H NMR (DMSO-d6, 200 MHz) δ 11.04 (br s, 1H), 7.29(t, J=2.7 Hz, 1H), 7.21 (d, J=7.7 Hz, 1H), 6.96 (t, J=7.2 Hz, 1H), 6.75 (dt, J=6.9, 0.8 Hz, 1H), 6.43 (m, 1H), 2.46 (s, 3H).

reactant | 3-nitro-o-xylene | 0.1 mol, 13.4 mL | [N+](=O)([O-])C1=C(C(=CC=C1)C)C | C8H9NO2
reactant | dimethylformamide dimethyl acetal | 0.3 mol, 40 mL | COC(N(C)C)OC | C5H13NO2
reactant | pyrrolidine | 0.12 mol, 10 mL | N1CCCC1 | C4H9N
reactant | water | 400 mL | O | H2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-charcoal | 1.5 g | [Pd] | Pd
product | 4-methylindole | 8.85 g, 68% | CC1=C2C=CNC2=CC=C1 | C9H9N
